US05324711
Preparation of 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetic acid
A solution of 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetaldehyde dimethyl acetal (23.0 g, 0.053 mole) in acetic acid is treated with 54 mol of 2.5 N H2SO4 and heated at 70° C. for 12 hours. A portion of the reaction solution is concentrated, diluted with acetone and treated portionwise, at 25°-30° C., with an aqueous solution of KMnO4 (23.7 g, 0.15 mole). Addition is continued until a persistent pink color is obtained at 27° C. The reaction mixture is filtered to remove MnO2 and the filtrate is concentrated in vacuo to give a residue. Addition of water to the thus-obtained residue precipitates the title compound as a pale yellow solid, 16.6 g. A sample is recrystallized twice from 75% aqueous ethanol to afford a crystalline solid, mp 174°-175.5° C., identified by elemental and NMR analyses.

reactant | 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetaldehyde dimethyl acetal | 0.053 mole, 23.0 g | COC(C(N1N=NC2=C1C=C(C=C2)OC2=CC(=C(C(=C2)F)C(F)(F)F)Cl)C)OC | C18H16ClF4N3O3
reactant | H2SO4 | 54 mol, 2.5 N | OS(=O)(=O)O | H2O4S
reactant | KMnO4 | 0.15 mole, 23.7 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetic acid | ClC1=C(C(=CC(=C1)OC=1C=CC2=C(N(N=N2)C(C(=O)O)C)C1)F)C(F)(F)F | C16H10ClF4N3O3
